US07883826B2
Preparation of Monomer A, [3-(methacryloylamino)propyl]trimethylammonium tetraphenylborate
Sodium tetraphenylborate (13.68 g, Aldrich Chemical Co.) was dissolved in 300 g of water in a 500 ml beaker marked as Container A. [3-(Methacryloylamino)propyl]trimethylammonium chloride (17.64 g, 50% in water, Aldrich Chemical Co.) was diluted in 500 g of water in a 1000 ml beaker marked as Container B. The solution in Container A was slowly (over about 10 minutes) added to the solution in Container B while severely stirring by a Silverson L4R. A white precipitate was formed and the mixture was stored in a refrigerator for 2 hours. After a first filtration, the white solid was collected and washed with 100 ml of water. The product was obtained from a second filtration and dried under ambient temperature over the weekend and then at 35° C. in an oven for 4 hours to provide 20 g of a white solid.

reactant | Sodium tetraphenylborate | 13.68 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | [3-(Methacryloylamino)propyl]trimethylammonium chloride | 17.64 g | [Cl-].C(C(=C)C)(=O)NCCC[N+](C)(C)C
solvent | water | 300 g | O | H2O
solvent | water | 500 g | O | H2O
product | [3-(methacryloylamino)propyl]trimethylammonium tetraphenylborate | 20 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C(=C)C)(=O)NCCC[N+](C)(C)C | InChI=1S/C24H20B.C10H20N2O/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-9(2)10(13)11-7-6-8-12(3,4)5/h1-20H;1,6-8H2,2-5H3/q-1;/p+1
